US08383644B2
2-tert-Butoxycarbonylamino-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-acrylic acid methyl ester
(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxine-6 carbaldehyde (2.1 g) was dissolved in 8 mL dry DCM under nitrogen at rt and DBU (1.61 g) was added by syringe. A solution of Boc-phosphonoglycine trimethyl ester (1.58 g) in 4 mL of dry DCM was added to the reaction mixture and stirred at rt. for 12 hours. Reaction mixture was directly loaded on to silica gel column (40% hexanes in DCM to DCM) gave 1.8 g pure product. 1H NMR (400 MHz, CDCl3): 7.55 (d, 1H), 7.46 (d, 1H), 7.32-7.38 (m, 1H), 7.18-7.28 (m, 3H), 7.10-7.15 (m, 1H), 6.94-7.06 (m, 4H), 5.13 (m, 1H), 5.03 (s, 2H), 4.36 (m, 1H), 4.01 (m, 1H), 3.84 (s, 3H), 1.44 (s, 9H). LCMS (m/z): 587.

reactant | (S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxine-6 carbaldehyde | 2.1 g | ClC=1C=C(COC=2C=C(C=CC2)[C@H]2COC3=C(O2)C=CC(=C3)C=O)C=CC1Cl | C22H16Cl2O4
reactant | DBU | 1.61 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Boc-phosphonoglycine trimethyl ester | 1.58 g | CC(C)(C)OC(=O)NC(C(=O)OC)P(=O)(OC)OC | C10H20NO7P
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-tert-Butoxycarbonylamino-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-acrylic acid methyl ester | 1.8 g | COC(C(=CC1=CC2=C(O[C@H](CO2)C2=CC(=CC=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H29Cl2NO7
